US03959322
Add mercuric sulphate (0.45 g) to a stirred solution of 1-diethylamino-5-methyl-6-(m-methoxyphenyl)hex-2-yne (8 g) in concentrated sulfuric acid (2.5 cc) and water (25 cc) and heat the mixture at 70° for 11/2 hours. Filter the coled solution, make basic with 10% aqueous sodium hydroxide and extract with ether. Wash and dry the ethereal solution and evaporate to leave as residue crude 1-diethylamino-6-(m-methoxyphenyl)-5-methylhexan-3-one; infrared absorption peaks at 5.85 μ. Slowly distil at 0.1 mm Hg to obtain 5-methyl-6-(m-methoxyphenyl)hex-1-en-3-one; infrared absorption peaks at 5.82 μ.

reactant | 1-diethylamino-5-methyl-6-(m-methoxyphenyl)hex-2-yne | 8 g | C(C)N(CC#CCC(CC1=CC(=CC=C1)OC)C)CC | C18H27NO
reactant | sulfuric acid | 2.5 cc | S(O)(O)(=O)=O | H2O4S
solvent | water | 25 cc | O | H2O
product | 5-methyl-6-(m-methoxyphenyl)hex-1-en-3-one | CC(CC(C=C)=O)CC1=CC(=CC=C1)OC | C14H18O2
